US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone (50 mg, 0.120 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (49 mg, 0.180 mmol) to afford the desired product (29 mg, 51%) as a yellow solid: 1H NMR (300 MHz, CD3OD) δ 9.13 (s, 1H), 8.39 (d, J=1.5 Hz, 1H), 8.02-7.83 (m, 2H), 7.56-7.37 (m, 2H), 3.84 (d, J=5.9 Hz, 2H), 2.89-2.74 (m, 3H), 2.71 (s, 3H), 2.05 (d, J=13.4 Hz, 3H), 1.65-1.47 (m, 2H), 1.28 (s, 3H), 1.24-1.16 (m, 2H), 1.16-1.02 (m, 2H), 0.88 (d, J=6.9 Hz, 1H); ESI MS m/z [C26H27ClFN3O2+H]+; HPLC>99% (AUC), tR=9.14 min.

reactant | {6-bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.120 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C | C20H24BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 49 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone | 29 mg, 51% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C | C26H27ClFN3O2
